US07208494B2
m) (R)-6-Chloro-4,7-dimethyl-3,4-dihydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester
To a solution of 0.21 g (0.89 mmol) (R)-6-chloro-4,7-dimethyl-1,2,3,4-tetrahydro-2,4a,5-triaza-fluorene in 2 mL dichloromethane were added 0.23 g (1.07 mmol) di-tert-butyl dicarbonate and 54.0 mg (0.04 mmol) 4-(dimethylamino)pyridine. After 30 min. the solvent was evaporated and the residue was purified by flash column chromatography over silica gel (0.030–0.063 mm) with ethyl acetate:n-hexane (1:5) as eluant to give the product as a light yellow foam (89.6%).

reactant | (R)-6-chloro-4,7-dimethyl-1,2,3,4-tetrahydro-2,4a,5-triaza-fluorene | 0.89 mmol, 0.21 g | ClC=1N=C2N3[C@@H](CNCC3=CC2=CC1C)C | C12H14ClN3
reactant | di-tert-butyl dicarbonate | 1.07 mmol, 0.23 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | 0.04 mmol, 54.0 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | (R)-6-Chloro-4,7-dimethyl-3,4-dihydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | 89.6% | C(C)(C)(C)OC(=O)N1CC2=CC3=CC(=C(N=C3N2[C@@H](C1)C)Cl)C | C17H22ClN3O2
